US04278677
A mixture of 12.5 g of 5-chloro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole, 120 ml of anhydrous dimethylformamide, 11.5 g of sodium carbonate and 6.5 ml of cyclopropylmethyl chloride was stirred for 24 hours under an inert atmosphere at 70° C. and was then cooled to 30° C. after which 300 ml of distilled water were added thereto while cooling in an ice bath. Precipitation occured and the mixture was stirred for 45 minutes, stood for 15 minutes and was then filtered. The product was washed 3 times with distilled water and was empasted with 20 ml of 50% aqueous ethanol. The product was dried at 50° C. under reduced pressure in the presence of a dehydrating agent to obtain 13.54 g of raw product which was dissolved in 350 ml of refluxing ethanol. The solution was filtered and the filtrate was concentrated to 300 ml for crystallization. The solution was cooled to room temperature and was held in a refrigerator for 90 minutes. The mixture was vacuum filtered and the product was rinsed with ethanol and dried under reduced pressure to obtain 7.8 g of 5-chloro-3-(1-cyclopropylmethyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole melting at 205° C.

reactant | 5-chloro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 12.5 g | ClC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H13ClN2
reactant | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
reactant | sodium carbonate | 11.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | cyclopropylmethyl chloride | 6.5 ml | C1(CC1)CCl | C4H7Cl
solvent | ethanol | 350 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | 5-chloro-3-(1-cyclopropylmethyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 7.8 g | ClC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)CC1CC1 | C17H19ClN2
